US06329366B1
5-Methylthio-2-nitrobenzoic acid.
5-Chloro-2-nitrobenzoic acid (25.2 g, 0.125 mol) was stirred in water. To this was added sufficient sodium hydroxide solution (2M, 42 ml, 0.084 mol) to dissolve the acid completely. A solution of sodium sulfide nonahydrate (33.0 g, 0.1375 mol) in water (75 ml) was added and the solution was stirred at 60° C. for 2.5 hr. This resultant red solution was added to a solution of sodium hydroxide (50% 10 ml, 0.125 mol) in water (15 ml), dimethyl sulfate (24 ml, 0.25 mol) was added and the solution heated under reflux for 1 hour. The solution was cooled and acidified with hydrochloric acid (5M, 32 ml, 0.16 mol). The precipitated yellow solid was filtered off, washed with water, dried at 60° C. under vacuum, mp 173° C. (lit. J. Heterocyclic Chemistry 1981 18 117). Mp 175-178° C.)

reactant | 5-Chloro-2-nitrobenzoic acid | 0.125 mol, 25.2 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | sodium hydroxide | 0.084 mol, 2M, 42 ml | [OH-].[Na+]
reactant | sodium sulfide nonahydrate | 0.1375 mol, 33.0 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | sodium hydroxide | 0.125 mol, 10 ml | [OH-].[Na+]
reactant | dimethyl sulfate | 0.25 mol, 24 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | 0.16 mol, 5M, 32 ml | Cl | ClH
solvent | water | O | H2O
solvent | water | 75 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 5-Methylthio-2-nitrobenzoic acid | CSC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO4S
